US06828330B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3H-imidazo[4,5-b]pyridine-2-carboxamide hydrochloride
To 3H-imidazo[4,5-b]pyridine-2-carboxylic acid (90 mg, 0.55 mmol) in DMF (4 mL) is added (R)-(+)-3-aminoquinuclidine dihydrochloride (0.11 g, 0.56 mmol), DIEA (0.25 g, 0.35 mL, 1.9 mmol) and HATU (0.21 g, 0.56 mmol). The mixture is stirred overnight at rt, diluted with CH2Cl2 (50 mL) and washed with 1 N NaOH (2×50 mL) followed by sat. aq. NaHCO3 (50 mL). The material is purified by passage through acidic ion exchange resin. The free base is taken up in 3 M HCl/MeOH (10 mL) and stirred for 1.5 hr. Isopropanol and Et2O are added and the solid is isolated by vacuum filtration to afford Example 1004 in 57% yield. MS for C14H17N5O: 272 (M+H)+.

reactant | 3H-imidazo[4,5-b]pyridine-2-carboxylic acid | 0.55 mmol, 90 mg | N1=C(NC2=NC=CC=C21)C(=O)O | C7H5N3O2
reactant | (R)-(+)-3-aminoquinuclidine dihydrochloride | 0.56 mmol, 0.11 g | Cl.Cl.N[C@H]1CN2CCC1CC2
reactant | DIEA | 1.9 mmol, 0.35 mL, 0.25 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.56 mmol, 0.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3H-imidazo[4,5-b]pyridine-2-carboxamide hydrochloride | 57% yield | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C2=NC=1C(=NC=CC1)N2 | InChI=1S/C14H17N5O.ClH/c20-14(13-16-10-2-1-5-15-12(10)18-13)17-11-8-19-6-3-9(11)4-7-19;/h1-2,5,9,11H,3-4,6-8H2,(H,17,20)(H,15,16,18);1H/t11-;/m0./s1
